US07179912B2
2-Hydroxy-4-((1-morpholin-4-yl-methanoyl)amino]-benzoic acid
A solution of 4-amino-2-hydroxy-benzoic acid methyl ester (1.0 g, 6 mmol) and triethylamine (0.8 mL, 6 mmol) in CHCl3 (25 mL) was treated with morpholine-4-carbonyl chloride (4.2 mL, 48 mmol) and stirred at reflux for 72 h. After cooling to room temperature, the solution was washed with 5% aqueous hydrochloric acid (25 mL), saturated aqueous sodium bicarbonate (25 mL), and brine (25 mL), dried over Na2SO4, and concentrated to an orange solid. The crude solid was triturated with CHCl3 (10 mL) to afford the product as an off-white solid (0.25 g, 15%).

reactant | 4-amino-2-hydroxy-benzoic acid methyl ester | 6 mmol, 1.0 g | COC(C1=C(C=C(C=C1)N)O)=O | C8H9NO3
reactant | triethylamine | 6 mmol, 0.8 mL | C(C)N(CC)CC | C6H15N
reactant | morpholine-4-carbonyl chloride | 48 mmol, 4.2 mL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | CHCl3 | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Hydroxy-4-((1-morpholin-4-yl-methanoyl)amino]-benzoic acid | 0.25 g, 15% | OC1=C(C(=O)O)C=CC(=C1)NC(=O)N1CCOCC1 | C12H14N2O5
